US07053089B2
(5-Methyl-pyrimidin-4-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine
EXAMPLE 92 was prepared from (2-chloro-5-methyl-pyrimidin-4-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine by hydrogenation in ethanol-triethylamine over 5% palladium on carbon, 1 atm of hydrogen: MS (m+1)=375.5.

reactant | (2-chloro-5-methyl-pyrimidin-4-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | ClC1=NC=C(C(=N1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1)C | C19H25ClN4O2S
reactant | hydrogen | [H][H] | H2
solvent | ethanol triethylamine | C(C)O.C(C)N(CC)CC
catalyst | palladium on carbon | [Pd] | Pd
product | (5-Methyl-pyrimidin-4-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | CC=1C(=NC=NC1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1 | C19H26N4O2S
